US08022223B2
Step B: Preparation of N-(4-methylthiazol-2-yl)-3-(phenylthio)-5-((tetrahydropyran-4-ylidene)methyl)pyridin-2-amine hydrochloride:
A 10 mL round-bottomed flask was charged with (6-(4-methylthiazol-2-ylamino)-5-(phenylthio)pyridin-3-yl)(tetrahydro-2H-pyran-4-yl)methanol hydrochloride (125 mg, 0.278 mmol), 4-methylbenzenesulfonic acid hydrate (5.28 mg, 0.0278 mmol), Toluene (5 mL) and heated to reflux in dean stark trap for 24 7 hours. The reaction was cooled to ambient temperature and partitioned between saturated aqueous sodium bicarbonate and CH2Cl2. The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (25% EtOAc in hexanes) to afford the title compound (42 mg, 35.0% yield) as after HCl salt formation. 1H NMR (CDCl3) δ 12.24 (bs, 1H), 8.18 (m, 1H), 7.71 (m, 1H), 7.54 (m, 2H), 7.30 (m, 3H), 6.40 (s, 1H), 6.20 (s, 1H), 3.78 (t, 2H), 3.65 (t, 2H), 2.45 (s, 3H), 2.42 (m, 4H). Mass spectrum (apci) m/z=396.2 (M+H—HCl).

reactant | (6-(4-methylthiazol-2-ylamino)-5-(phenylthio)pyridin-3-yl)(tetrahydro-2H-pyran-4-yl)methanol hydrochloride | 0.278 mmol, 125 mg | Cl.CC=1N=C(SC1)NC1=C(C=C(C=N1)C(O)C1CCOCC1)SC1=CC=CC=C1
reactant | 4-methylbenzenesulfonic acid hydrate | 0.0278 mmol, 5.28 mg | O.CC1=CC=C(C=C1)S(=O)(=O)O
reactant | HCl | Cl | ClH
solvent | Toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-methylthiazol-2-yl)-3-(phenylthio)-5-((tetrahydropyran-4-ylidene)methyl)pyridin-2-amine hydrochloride | 42 mg, 35.0% yield | Cl.CC=1N=C(SC1)NC1=NC=C(C=C1SC1=CC=CC=C1)C=C1CCOCC1 | InChI=1S/C21H21N3OS2.ClH/c1-15-14-26-21(23-15)24-20-19(27-18-5-3-2-4-6-18)12-17(13-22-20)11-16-7-9-25-10-8-16;/h2-6,11-14H,7-10H2,1H3,(H,22,23,24);1H
